US05986131
A suspension of ((2,6,6-trimethyl-1-cyclohexen-1-yl)methyl)triphenylphosphonium chloride (18 g) in tetrahydrofuran (300 ml) was cooled to -60° C., treated dropwise with n-butyllithium (1.4M in hexane; 32 ml), and then stirred a further 10 minutes. To this cold solution was added the 2-bromocyclohexene-1-carboxaldehyde (8.5 g,75% pure by HNMR analysis) dissolved in tetrahydrofuran, and the mixture was allowed to warm to room temperature after which it was stirred for a further 2 hours. Hexane was then added to the reaction and the resulting mixture was washed with water, 50% aqueous methanol and dried (magnesium sulphate). Removal of the solvents yielded the crude (E)-1-bromo-2-(2-(2,6,6-trimethyl-1-cyclohexen-1-yl)ethenyl)-cyclohexene (12.5 g) as a mixture of isomers which was used, as is, in the next step. Standard transmetalation and reaction with DMF yielded a cruce aldehyde (4.5 g) which was dissolved in tetrahydrofuran (100 ml) and reacted with an excess of the phosphonate as in Example 1to give methyl (2E,4E)-3-methyl-5-(2-((E)-2(2,6,6-trimethyl-cyclohexen-1-yl)ethenyl)-1-cyclohexen-1-yl)-2,4-pentadienoate (3 g) as an oil after purification by HPLC (2.5% ether in hexane). Hydrolysis with aqueous potassium hydroxide solution gave crystalline (2E,4E)-3-Methyl-5-(2-((E)-2(2,6,6-trimethyl-cyclohexen-1-yl)ethenyl)-1-cyclohexen-1-yl)-2,4-pentadienoic acid (1.6 g from hexane-tetrahydrofuran).

reactant | ((2,6,6-trimethyl-1-cyclohexen-1-yl)methyl)triphenylphosphonium chloride | 18 g | [Cl-].CC1=C(C(CCC1)(C)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 1.4M, 32 ml | C(CCC)[Li]
reactant | 2-bromocyclohexene-1-carboxaldehyde | 8.5 g | BrC1=C(CCCC1)C=O | C7H9BrO
reactant | Hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (E)-1-bromo-2-(2-(2,6,6-trimethyl-1-cyclohexen-1-yl)ethenyl)-cyclohexene | 12.5 g | BrC1=C(CCCC1)\C=C\C1=C(CCCC1(C)C)C | C17H25Br
